US07923456B2
Step 1: 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
To a solution of 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid (326 mg, 0.82 mmol) in THF (4.1 ml) was added O-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (362 mg, 2.46 mmol), DIPEA (1.26 ml, 7.4 mmol), HOBt (327 mg, 2.46 mmol) and EDCI (471 mg, 2.46 mmol), the mixture stirred for 18 hours at ambient temperature. The reaction mixture was diluted with ethyl acetate and washed with a saturated aqueous solution of sodium bicarbonate followed by water and then brine. The organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. Purification of the resultant residue by flash chromatography (Si-PPC, gradient 0% to 10%, methanol in dichloromethane) afforded the title compound as a pale yellow solid (364 mg, 84%). LCMS (method B): RT=2.58 min, [M+H]+=527.

reactant | 5-(2-fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 0.82 mmol, 326 mg | FC1=C(C=CC(=C1)I)NC1=C(C=CC=2N1C=NC2)C(=O)O | C14H9FIN3O2
reactant | O-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 2.46 mmol, 362 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | DIPEA | 7.4 mmol, 1.26 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 2.46 mmol, 327 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 2.46 mmol, 471 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | THF | 4.1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Fluoro-4-iodo-phenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid ((S)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 364 mg, 84% | CC1(OC[C@H](O1)CONC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2)C | C20H20FIN4O4
